US05389640
α-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol
3-Amino-4-(2-methylpropylamino) quinoline (29.0 g; 0.135 mol) and lactic acid (36 mL; 0.48 mol) were mixed and heated at 140° C. for 6 hr. The mixture was then dissolved in dilute hydrochloric acid and treated with charcoal. The solids were filtered from the mixture. The filtrate was made basic with ammonium hydroxide to precipitate the product as an oil. The oil was extracted into ethyl acetate. The ethyl acetate solution was treated with decolorizing carbon and the solids were filtered from the mixture. The filtrate was evaporated to dryness to yield a greenish oil which was pure enough for further reactions. A small sample was triturated with hexane to obtain a solid which was recrystallized from ethyl acetate for analysis. m.p. 152°-166° C.

reactant | 3-Amino-4-(2-methylpropylamino) quinoline | 0.135 mol, 29.0 g | NC=1C=NC2=CC=CC=C2C1NCC(C)C | C13H17N3
reactant | lactic acid | 0.48 mol, 36 mL | C(C(O)C)(=O)O | C3H6O3
reactant | charcoal | C | CH4
solvent | hydrochloric acid | Cl | ClH
product | α-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol | CC(O)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C16H19N3O
